US05962458
2M Aqueous sodium hydroxide solution (900 μl) was added to a solution of 4-(3-acetoxy-4-methylanilino)-6-methoxy-7-((1 -methylbenzimidazol-2-yl)methoxy)quinazoline (290 mg, 0.6 mmol) in methanol (15 ml) and methylene chloride (12 ml) and the mixture stirred for 25 minutes at ambient temperature. The solvent was removed by evaporation and the residue was partitioned between ethyl acetate and water. The organic layer was separated, washed with water and brine, dried (MgSO4) and the solvent removed by evaporation. The solid residue was purified by column chromatography eluting with methylene chloride/methanol (97/3 and 95/5). The purified white solid was suspended in methanol (20 ml) and a solution of 7.5M hydrochloric acid in methanol (2 equivalents) was added. The solid was collected by filtration, washed with methanol and then pentane and dried under vacuum at 50° C. to give 4-(3-hydroxy-4-methylanilino)-6-methoxy-7-((1-methylbenzimidazol-2-yl)methoxy)quinazoline hydrochloride (106 mg, 37%).

reactant | sodium hydroxide | 2M, 900 μl | [OH-].[Na+]
reactant | 4-(3-acetoxy-4-methylanilino)-6-methoxy-7-((1 -methylbenzimidazol-2-yl)methoxy)quinazoline | 0.6 mmol, 290 mg | C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=NC3=C(N2C)C=CC=C3)C=CC1C | C27H25N5O4
reactant | hydrochloric acid | 7.5M | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 2 equivalents | CO | CH4O
product | 4-(3-hydroxy-4-methylanilino)-6-methoxy-7-((1-methylbenzimidazol-2-yl)methoxy)quinazoline hydrochloride | 106 mg, 37% | Cl.OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=NC3=C(N2C)C=CC=C3)C=CC1C | InChI=1S/C25H23N5O3.ClH/c1-15-8-9-16(10-21(15)31)28-25-17-11-22(32-3)23(12-19(17)26-14-27-25)33-13-24-29-18-6-4-5-7-20(18)30(24)2;/h4-12,14,31H,13H2,1-3H3,(H,26,27,28);1H
